US07371746B2
In 4 ml of N,N-dimethylformamide was dissolved 333 mg of 5-chloro-3-methylthio-1,2,4-thiadiazole, and 142 mg of pyrrolidine was added dropwise at room temperature. The mixture was stirred for 6 hours. The reaction mixture was diluted with tert-butyl methyl ether, and extracted with tert-butyl methyl ether after the addition of 10% hydrochloric acid. The organic layer was washed with water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to obtain a crude 3-methylthio-5-(pyrrolidin-1-yl)-1,2,4-thiadiazole. In 4 ml of chloroform was added the crude 3-methylthio-5-(pyrrolidin-1-yl)-1,2,4-thiadiazole, and 1.52 g of 3-chloroperbenzoic acid (content: 65 weight %) was added under ice-cooling. The mixture was stirred at room temperature for 6 hours. The reaction mixture was washed with 10%-sodium sulfite aqueous solution and saturated sodium bicarbonate aqueous solution. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure to obtain a crude mixture of 3-methylsulfinyl-5-(pyrrolidin-1-yl)-1,2,4-thiadiazole and 3-methylsulfonyl-5-(pyrrolidin-1-yl)-1,2,4-thiadiazole. The crude mixture of 3-methylsulfinyl-5-(pyrrolidin-1-yl)-1,2,4-thiadiazole and 3-methylsulfonyl-5-(pyrrolidin-1-yl)-1,2,4-thiadiazole was mixed with 4 ml of N,N-dimethylformamide and 140 mg of 2-butyn-1-ol, and 120 mg sodium hydride (oil suspension; content: 60 weight %) under ice-cooling. The mixture was stirred for 15 minutes and at room temperature for 6 hours. The reaction mixture was extracted with tert-butyl methyl ether after the addition of saturated sodium chloride aqueous solution. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 158 mg of 3-(2-butynyloxy)-5-(pyrrolidin-1-yl)-1,2,4-thiadiazole (hereinafter, referred to as the present compound (1)).

reactant | 5-chloro-3-methylthio-1,2,4-thiadiazole | 333 mg | ClC1=NC(=NS1)SC | C3H3ClN2S2
reactant | pyrrolidine | 142 mg | N1CCCC1 | C4H9N
reactant | 3-methylthio-5-(pyrrolidin-1-yl)-1,2,4-thiadiazole | CSC1=NSC(=N1)N1CCCC1 | C7H11N3S2
reactant | 3-chloroperbenzoic acid | 1.52 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 3-methylsulfinyl-5-(pyrrolidin-1-yl)-1,2,4-thiadiazole | CS(=O)C1=NSC(=N1)N1CCCC1 | C7H11N3OS2
reactant | 3-methylsulfonyl-5-(pyrrolidin-1-yl)-1,2,4-thiadiazole | CS(=O)(=O)C1=NSC(=N1)N1CCCC1 | C7H11N3O2S2
reactant | 2-butyn-1-ol | 140 mg | C(C#CC)O | C4H6O
reactant | sodium hydride | 120 mg | [H-].[Na+]
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | tert-butyl methyl ether | COC(C)(C)C | C5H12O
solvent | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 3-(2-butynyloxy)-5-(pyrrolidin-1-yl)-1,2,4-thiadiazole | 158 mg | C(C#CC)OC1=NSC(=N1)N1CCCC1 | C10H13N3OS
